US05646308
A mixture of 550 mg of 3,4-dihydro-3-hydroxy-2,2-bis(methoxymethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide, 0.16 g of p-toluenesulfonic acid monohydrate and 8 ml of toluene was refluxed with heating for 1.5 hours. Toluene was added to the mixture. After it was washed with water and dried, the solvent was distilled. The resultant residue was purified according to silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 110 mg of oily 2,2-bis(methoxymethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide.

reactant | 3,4-dihydro-3-hydroxy-2,2-bis(methoxymethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 550 mg | OC1C(OC2=C(C1C(NC)=S)C=C(C=C2)[N+](=O)[O-])(COC)COC | C15H20N2O6S
reactant | p-toluenesulfonic acid monohydrate | 0.16 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-bis(methoxymethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 110 mg | COCC1(OC2=C(C(=C1)C(NC)=S)C=C(C=C2)[N+](=O)[O-])COC | C15H18N2O5S
